US07612091B2
5,6-Dichloro-3H-isobenzofuran-1-one
NaBH4 (5.2 g) was added to a stirred solution of 4,5-dichlorophthalic anhydride (20 g) in anhydrous DMF (100 mL) at 0° C. under nitrogen in small portions over 1 hour. The reaction was warmed to room temperature for a further 2 hours and poured into ice/1M HCl. The resultant white precipitate (4,5-dichloro-2-hydroxymethyl-benzoic acid) was collected by filtration and dried under vacuum. The precipitate was suspended in toluene (200 mL) with catalytic pTSA and heated to reflux under Dean-Stark conditions (precipitate dissolves on heating) for 18 hours. The reaction was cooled to room temperature and the resultant white precipitate collected by filtration to give the sub-title compound as a white solid (14.0 g, 75%); 1H NMR (400 MHz, d6-DMSO) δ 5.40 (2H, s), 8.05 (1H, s), 8.15 (1H, s).

reactant | NaBH4 | 5.2 g | [BH4-].[Na+]
reactant | 4,5-dichlorophthalic anhydride | 20 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-3H-isobenzofuran-1-one | 14.0 g, 75% | ClC=1C=C2COC(C2=CC1Cl)=O | C8H4Cl2O2
